US09227985B2
N-Bromosuccinimide (40 mg, 0.2 mmol) was added to a solution of 2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide, acetonitrile (5 mL) and acetic acid (3 mL) and cooled to 0° C. The reaction mixture was stirred for 1 h and then concentrated to remove residual acetic acid. The resulting residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude 7-bromo-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide (0.040 g. 60%). LCMS calculated for C15H12BrN4O3 (M+H)+: m/z=375.1, 377.1. found: 375.0, 376.9.

reactant | N-Bromosuccinimide | 0.2 mmol, 40 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide | O=C1NC2=CC=CC3=C2N1C(CO3)(C(=O)N)C3=NC=CC=C3 | C15H12N4O3
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide | 0.040 g, 60% | BrC1=CC=C2C=3N(C(COC31)(C(=O)N)C3=NC=CC=C3)C(N2)=O | C15H11BrN4O3
